US07834063B2
A. 4-[(Cyclopropylmethyl)amino]-3-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1A from 4-fluoro-3-(trifluoromethyl)benzonitrile and (cyclopropylmethyl)amine: MS (APCI) m/z 241 (M+1).

reactant | 4-fluoro-3-(trifluoromethyl)benzonitrile | FC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H3F4N
reactant | (cyclopropylmethyl)amine | C1(CC1)CN | C4H9N
product | 4-[(Cyclopropylmethyl)amino]-3-(trifluoromethyl)benzonitrile | C1(CC1)CNC1=C(C=C(C#N)C=C1)C(F)(F)F | C12H11F3N2
